US04362666
To the solution of 1.9 g of 2-methyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine in 50 ml of benzene, 2.14 g of ethyl chloroformate are added and the mixture is refluxed for 3 days. It is diluted with diethyl ether, washed with N hydrochloric acid and with both saturated aqueous sodium chloride and sodium bicarbonate, dried and evaporated, to yield the 2-carbethoxy-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine showing in the NMR-spectrum peaks at 8.55(t), 6.60(m), 5.65(q) and 3.90(d) ppm, and in the mass-spectrum a molecular ion of 311.

reactant | 2-methyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine | 1.9 g | CN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1 | C16H19N3
reactant | ethyl chloroformate | 2.14 g | ClC(=O)OCC | C3H5ClO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-carbethoxy-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine | C(=O)(OCC)N1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1 | C18H21N3O2
